US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid{2-[4-(2-hydroxy-acetyl)-piperazin-1-yl]-ethyl}-amide
A mixture of acetic acid 2-{4-[2-({5-[5-(2,6-dichlorophenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-amino)-ethyl]-piperazin-1-yl}-2-oxo-ethyl ester (from the above reaction) and 10% potassium carbonate (2.67 g) in water (20 mL) and methanol (10 mL) was stirred at 40° C. for overnight. The precipitate was collected by vacuum filtration, washed with methanol, water and dried to give 305 mg (45% for 4 steps) of the titled compound as a yellow solid.

reactant | acetic acid 2-{4-[2-({5-[5-(2,6-dichlorophenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-amino)-ethyl]-piperazin-1-yl}-2-oxo-ethyl ester | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)NCCN1CCN(CC1)C(COC(C)=O)=O)C | C33H35Cl2N5O7S
reactant | potassium carbonate | 2.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 20 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid{2-[4-(2-hydroxy-acetyl)-piperazin-1-yl]-ethyl}-amide | OCC(=O)N1CCN(CC1)CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C31H33Cl2N5O6S
